US07772285B2
1.15 g of methyl 3-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-methoxy-3-oxopropyl)phenoxy]methyl}-1-benzothiophene-7-carboxylate was dissolved in a mixed solvent of 10 mL of methanol and 10 mL of tetrahydrofuran, to which 2 mL of a 5M aqueous solution of sodium hydroxide was added at room temperature, and then this mixture was stirred for 30 minutes at the same temperature, followed by addition thereto of 2 mL of water, and this mixture was stirred for another 30 minutes at temperatures of 50 to 60° C. The reaction mixture was cooled to room temperature, to which water was added, and then adjusted to pH 2 with 6M hydrochloric acid. Chloroform was added to this reaction mixture, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water, the organic phase was separated and the solvent was distilled out thereof under reduced pressure. The resultant residue was washed with hexane to yield 1.00 g of 3-({2-(2-carboxyethyl)-4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]phenoxy}methyl)-1-benzothiophene-7-carboxilic acid as light yellow solid.

reactant | methyl 3-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-methoxy-3-oxopropyl)phenoxy]methyl}-1-benzothiophene-7-carboxylate | 1.15 g | C1(CCCC1)OC1=CC(=C(C(=O)C2=CC(=C(OCC3=CSC4=C3C=CC=C4C(=O)OC)C=C2)CCC(=O)OC)C=C1)O | C33H32O8S
reactant | water | 2 mL | O | H2O
reactant | hydrochloric acid | 6M | Cl | ClH
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | [OH-].[Na+]
product | 3-({2-(2-carboxyethyl)-4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]phenoxy}methyl)-1-benzothiophene-7-carboxilic acid | 1.00 g | C(=O)(O)CCC1=C(OCC2=CSC3=C2C=CC=C3C(=O)O)C=CC(=C1)C(C1=C(C=C(C=C1)OC1CCCC1)O)=O | C31H28O8S
